US06153652
Synthesis of N-[(3-methylthiophenyl)acetyl]alanine iso-butyl ester
Following General Procedure I' above, and using 3-methylthiophenylacetic acid (CAS# 18698-73-2) and alanine iso-butyl ester (prepared following General Procedure J' above), the title compound was prepared. The reaction was monitored by tlc on silica gel and purification was by filtration as described in the general procedure.

reactant | 3-methylthiophenylacetic acid | CSC=1C=C(C=CC1)CC(=O)O | C9H10O2S
reactant | alanine iso-butyl ester | C(C(C)C)OC([C@@H](N)C)=O | C7H15NO2
product | N-[(3-methylthiophenyl)acetyl]alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC(CC1=CC(=CC=C1)SC)=O)C)=O | C16H23NO3S
